US06531613B1
A. Preparation of 1-isobutyl-3-methylbutyl methanesulfonate
In a one liter three-neck flask was mixed 100 g (0.69 moles) of 2,6-dimethyl-4-heptanol and 580 g chloroform. Triethylamine (77.1 g; 6 moles) was added and the reaction mixture cooled to 0° C. Methanesulfonyl chloride (83.4 g; 0.73 moles) was added dropwise, keeping the reaction temperature about 0° C. After holding at about 0° C. for one hour, gas chromatograph (GC) showed less than 5% residual alcohol.

reactant | 2,6-dimethyl-4-heptanol | 0.69 moles, 100 g | CC(C)CC(CC(C)C)O | C9H20O
reactant | Triethylamine | 6 moles, 77.1 g | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 0.73 moles, 83.4 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | chloroform | 580 g | C(Cl)(Cl)Cl | CHCl3
product | 1-isobutyl-3-methylbutyl methanesulfonate | CS(=O)(=O)OC(CC(C)C)CC(C)C | C10H22O3S
